Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Left hip pain
 
Major Surgical or Invasive Procedure:
Left hip surgical dislocation, head-neck osteoplasty, rim trm
 
History of Present Illness:
___ is a ___ year-old gentleman with a long history of left hip 
pain.  He failed non-operative treatment and provided informed 
consent for operative intervention
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
positive impingement test
 
Pertinent Results:
___ 06:56PM   WBC-14.2*# RBC-4.25* HGB-12.6* HCT-37.5* 
MCV-88 MCH-29.6 MCHC-33.6 RDW-12.9
 
Brief Hospital Course:
___ was admitted in stable condition following left hip 
surgical dislocation, osteoplasty, and rim trim.  He tolerated 
the procedure well.  He progressed with ___, and was eventually 
cleared for discharge.  His wound remained dry, he was afebrile, 
and tolerating PO medication at the time of discharge
 
Medications on Admission:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left hip impingement
 
Discharge Condition:
Stable
 
Discharge Instructions:
Keep wound clean and dry
___ MD for fever >101.5 or wound drainage
 
Followup Instructions:
___